### ISSUE TITLE
fun_cases: fails when definition in a different module

### ISSUE THREAD

**Issue by ia0** [leanprover/lean4#14558]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

It is not possible to `unfold` a well-founded recursive function from a different module. And using `fun_cases` fails with "Cannot derive functional cases principle (please report this issue)".

### Context

I was trying to refactor my single file proof into modules (splitting definitions and theorems) and hit this error.

### Steps to Reproduce

Content of `Bug.lean`:

```lean4
module

public import Bug.Code
import Bug.Proof
```

Content of `Bug/Code.lean`:

```lean4
module

@[expose]
public def List.chunks {T : Type} (xs : List T) (n : Nat) : List (List T) :=
  if 0 < n ∧ 0 < xs.length then xs.take n :: (xs.drop n).chunks n else []
termination_by xs.length
```

Content of `Bug/Proof.lean`:

```lean4
module

import Bug.Code

theorem List.chunks_nil {T : Type} (n : Nat) : (@nil T).chunks n = [] := by
  fun_cases chunks
  /- unfold chunks -/
  sorry
```

Output of `lean --version`:

```
Lean (version 4.34.0-nightly-2026-07-26, x86_64-unknown-linux-gnu, commit b4fb9a75e9e1cfc8d936ee6a574a8b537662698b, Release)
```

Output of `lake build`:

```
✖ [3/5] Building Bug.Proof
trace: .> LEAN_PATH=/tmp/bug/.lake/build/lib/lean $HOME/.elan/toolchains/leanprover--lean4-nightly---nightly-2026-07-26/bin/lean /tmp/bug/Bug/Proof.lean -o /tmp/bug/.lake/build/lib/lean/Bug/Proof.olean -i /tmp/bug/.lake/build/lib/lean/Bug/Proof.ilean -c /tmp/bug/.lake/build/ir/Bug/Proof.c --setup /tmp/bug/.lake/build/ir/Bug/Proof.setup.json --json
error: Bug/Proof.lean:6:12: Failed to realize constant List.chunks.fun_cases_unfolding:
  Cannot derive functional cases principle (please report this issue)
    `List.chunks` has neither an unfold theorem nor a value
error: Bug/Proof.lean:6:12: No functional cases theorem for `chunks`, or function is mutually recursive
error: Lean exited with code 1
Some required targets logged failures:
- Bug.Proof
error: build failed
```

**Expected behavior:** The build should not fail. Also when using `unfold chunks` instead of `fun_cases chunks`, it should unfold the definition instead of unfolding to `chunks._unary`.

**Actual behavior:** The build fails as described above. And using `unfold chunks` does not unfold the definition.

Note that if the definition and theorem are in the same module, then both issues disappear. So this is related to the module system, contrary to those 2 related bugs:
- #10838
- #8213

### Versions

Output of `#version`:

```
Lean 4: Lean 4.34.0-nightly-2026-07-26
Target: x86_64-unknown-linux-gnu Linux
```

### Additional Information

None.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Thanks! Is this only with fun_cases or also fun_induction?

Does it matter if you use `import public`? (Just to narrow it down?)

Probably just a matter of using the right environment (public/private) in the right place.

**Comment by ia0** [comment]
> Is this only with fun_cases or also fun_induction?

Interesting. There's no failure with `fun_induction`, but the output is incorrect (and useless).

The updated proof:

```lean4
  generalize he : (@nil T) = xs
  fun_induction chunks
```

Actual output:

```
Tactic state:

  case case1
  T : Type
  n : Nat
  x✝ : List T
  h✝ : 0 < n ∧ 0 < x✝.length
  ih1✝ : [] = drop n x✝ → (drop n x✝).chunks n = []
  he : [] = x✝
  ⊢ x✝.chunks n = []

  case case2
  T : Type
  n : Nat
  x✝ : List T
  h✝ : ¬(0 < n ∧ 0 < x✝.length)
  he : [] = x✝
  ⊢ x✝.chunks n = []
```

Expected output:

```
Tactic state:

  case case1
  T : Type
  n : Nat
  x✝ : List T
  h✝ : 0 < n ∧ 0 < x✝.length
  ih1✝ : [] = drop n x✝ → (drop n x✝).chunks n = []
  he : [] = x✝
  ⊢ take n x✝ :: (drop n x✝).chunks n = []

  case case2
  T : Type
  n : Nat
  x✝ : List T
  h✝ : ¬(0 < n ∧ 0 < x✝.length)
  he : [] = x✝
  ⊢ [] = []
```

> Does it matter if you use `import public`? (Just to narrow it down?)

I'm not sure what you mean. I've tried both of the following and it doesn't change the outcome:
- Use only `import Bug.Code` in `Bug.lean`
- Use `import all Bug.Code` in `Bug/Proof.lean`
